US05728835
3-Nitro-N-(3-methoxyphenyl)benzamide
Using m-anisidine (2.03 g, 16.5 mmol) and 3-nitrobenzoic acid (2.51 g, 15.0 mmol), the procedure of Reference Example 16 was repeated to obtain 3.72 g (91.3%) of the title compound in the form of colorless powder.

reactant | m-anisidine | 16.5 mmol, 2.03 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | 3-nitrobenzoic acid | 15.0 mmol, 2.51 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
product | 3-Nitro-N-(3-methoxyphenyl)benzamide | 3.72 g, 91.3% | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC=C2)OC)C=CC1 | C14H12N2O4
